data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_100708_1,[C:1](/[C:6](=[C:5](/[N:2]([N:3]([H:8])[H:9])/[C:4](=[N:7]\[H:10])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C@:6](/[C:4](=[N:7]\[H:10])[H:11])(/[C:5](=[N:2]/[N:3]([H:8])[H:9])[H:12])[H:13])([H:14])([H:15])[H:16],65.87871499999792
MR_353689_0,[C:1]([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])(/[C:5](=[N:8]/[C:3]([H:15])([H:16])[H:17])[H:11])[N:7]=[C:6]([H:18])[H:19]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[N:4]\[H:10])[C:5]([N:7]=[C:6]([H:18])[H:19])([N:8]([C:3]([H:15])([H:16])[H:17])[H:9])[H:11],43.65768499999291
MR_347448_0,[C:1]([C:3](=[C:5]([H:14])[H:15])[O:6][H:8])([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:9])[H:10]>>[C:1](=[C:3]([C:5]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:14])[H:15])[O:6][H:8])([H:9])[H:10],55.425819999993706
MR_370649_2,[C:1]([C:5]([C:4]1([C:6]([C:2]([H:15])([H:16])[H:17])=[C:9]([H:22])[H:23])/[C:3](=[N:10]/[H:11])[C:7]1([H:18])[H:19])=[C:8]([H:20])[H:21])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:4](/[C:3]([C:6]([C:2]([H:15])([H:16])[H:17])=[C:9]([H:22])[H:23])=[N:10]/[H:11])=[C:7]([H:18])[H:19])=[C:8]([H:20])[H:21])([H:12])([H:13])[H:14],72.2321525000082
MR_631514_2,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([O:6][H:9])[H:11])([C:3]([H:12])([H:13])[H:14])([O:5][N:7]=[O:8])[H:10]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([H:10])[C:2]([C:4]([H:15])([H:16])[H:17])([H:11])[O:6][N:7]([O:8][H:9])[O:5]1,64.01378499999808
MR_469979_0,[C:1]([C:3]([C:4](/[C:2](=[C:5](\[O:8][H:11])[H:12])[O:7][H:10])=[C:6]([H:16])[H:17])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([O:9][H:11])[C:2]([C:5](=[O:8])[H:12])([O:7][H:10])[C:4]1=[C:6]([H:16])[H:17])([H:13])([H:14])[H:15],30.60693999998449
MR_186018_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])=[N:9][N:10]([C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[C:7]([H:24])([H:25])[H:26])[O:8][H:11]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])([O:8][H:11])/[N:9]=[N:10]/[C:2]([C:5]([H:18])([H:19])[H:20])([C:6]([H:21])([H:22])[H:23])[C:7]([H:24])([H:25])[H:26],43.26424249998752
MR_308932_0,[C:1]([N:4](/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](\[C:3]([H:17])([H:18])[H:19])[N:7]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1](/[N:4]=[C:5](\[C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])([N:7]([H:9])[H:10])[H:8])([H:11])([H:12])[H:13],59.37028500002228
MR_113073_0,[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:4]([N:3]([N:6]([H:9])[H:10])[H:8])[N:7]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])(/[C:4](=[N:3]/[N:6]([H:9])[H:10])[N:7]([H:11])[H:12])[H:8])([H:13])([H:14])[H:15],50.07889249997476
MR_384122_0,[n:1]1([O:6][H:9])[c:2]([N:4]([H:11])[H:12])[c:3]([O:7][H:10])[c:5]([H:13])[n:8]1>>[N:1](=[C:2](/[C:3]1([O:7][H:10])[C:5]([H:13])=[N:8]1)[N:4]([H:11])[H:12])\[O:6][H:9],50.308557500001285
MR_2289_0,[C:1]([C:2]([H:11])([H:12])[H:13])([O:5][C:3]([N:4]([H:7])[H:8])=[O:6])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([O:6][C:3]([N:4]([H:7])[H:8])=[O:5])([H:9])[H:10],51.63195500001294
MR_130070_0,[C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[O:6][H:9])=[O:8])([H:13])[H:14])([O:7][H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([C:4](=[C:5]([H:15])[H:16])[O:6][H:9])([O:8][H:10])[H:12])([H:13])[H:14])(=[O:7])[H:11],59.845929999962806
MR_501436_0,[C:1]([N:2]([N:3]([O:6][H:8])[H:9])/[C:4]([N:5]([H:10])[H:11])=[N:7]/[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:4](/[N:5]([H:10])[H:11])[N:7]([N:3]([O:6][H:8])[H:9])[H:12])([H:13])([H:14])[H:15],67.16069749997146
MR_397523_0,[C:1](\[N:2]([H:10])[H:11])(=[C:5](\[C:3](/[C:4](=[N:7]\[H:12])[H:14])([O:6][H:8])[H:13])[H:15])[H:9]>>[C:1]([N:2]([H:10])[H:11])(/[C:4](=[N:7]\[H:12])[H:14])(/[C:5](=[C:3](\[O:6][H:8])[H:13])[H:15])[H:9],72.72787749996937
MR_416045_1,[C:1](/[C:4]([N:3]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[N:6]([H:9])[H:10])=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[C:4](=[N:3]\[N:6]([H:9])[H:10])[N:8]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])[H:11])([H:12])([H:13])[H:14],55.30659500000937
MR_90560_0,[C:1](/[C:3](=[N:6]/[C:2](=[C:4]([H:9])[H:10])[O:5][H:7])[H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([H:8])[C:4]([H:9])([H:10])[C:2]([O:5][H:7])=[N:6]1)([H:11])([H:12])[H:13],34.53446250002017
MR_420005_1,[C:1]([C:2]([C:4]1([O:8][H:9])[C:3]([H:13])([H:14])[C:6]([H:16])=[C:5]1[H:15])([H:11])[H:12])(=[O:7])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:2]([H:11])([H:12])[C:4](=[O:8])[C:3]([H:13])([H:14])[C:6]([H:16])=[C:5]1[H:15],48.24533750003837
MR_291877_1,[C:1]1([H:8])([H:9])[C:4](=[C:6]([H:14])[H:15])[C:5]1([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])[H:10]>>[C:1]1([H:8])([H:9])[C:4](=[C:6]([H:14])[H:15])[O:7][C:3]([C:2]([H:11])([H:12])[H:13])=[C:5]1[H:10],48.17756749999546
